US09428511B2
Step 3: (R)-8-((1-(6-Cyanopyridazin-3-yl)-3,3-dimethylpiperidin-4-yl)amino)-2-(1-ethyl-1H-pyrazol-4-yl)imidazo[1,2-b]pyridazine-7-carboxamide
To a solution of (R)-8-((3,3-dimethylpiperidin-4-yl)amino)-2-(1-ethyl-1H-pyrazol-4-yl)imidazo[1,2-b]pyridazine-7-carboxamide, TFA (13 mg, 0.026 mmol) in DMF (105 μl), DIEA (22.87 μl, 0.131 mmol) and 6-chloropyridazine-3-carbonitrile (4.02 mg, 0.029 mmol) were added. The reaction was heated at 90° C. After 2 hrs, the reaction was diluted with methanol (10 ml), filtered, and concentrated. The crude material was purified via preparative LC/MS (Method A). Fractions containing the desired product were combined and dried via centrifugal evaporation to afford the title compound of Example 53 (9.2 mg, 0.019 mmol, 72.4% yield). 1H NMR (500 MHz, methanol-d4) δ 8.33 (s, 1H), 7.95 (s, 1H), 7.93 (s, 1H), 7.89 (s, 1H), 7.60 (d, J=9.4 Hz, 1H), 7.22 (d, J=9.9 Hz, 1H), 5.77-5.67 (m, 1H), 4.33 (d, J=12.9 Hz, 1H), 4.26 (q, J=7.4 Hz, 2H), 3.49-3.41 (m, 1H), 3.26-3.19 (m, 1H), 2.35-2.27 (m, 1H), 1.91-1.80 (m, 1H), 1.54 (t, J=7.2 Hz, 3H), 1.43-1.38 (m, 1H), 1.14 (s, 3H), 1.10 (s, 3H). LC/MS (Method F): m/z 486.24 ([M+H]+), Rt. 1.400 min.

reactant | (R)-8-((3,3-dimethylpiperidin-4-yl)amino)-2-(1-ethyl-1H-pyrazol-4-yl)imidazo[1,2-b]pyridazine-7-carboxamide | CC1(CNCC[C@H]1NC=1C=2N(N=CC1C(=O)N)C=C(N2)C=2C=NN(C2)CC)C | C19H26N8O
reactant | TFA | 0.026 mmol, 13 mg | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | DIEA | 0.131 mmol, 22.87 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | 6-chloropyridazine-3-carbonitrile | 0.029 mmol, 4.02 mg | ClC1=CC=C(N=N1)C#N | C5H2ClN3
solvent | DMF | 105 μl | CN(C)C=O | C3H7NO
solvent | methanol | 10 ml | CO | CH4O
product | (R)-8-((1-(6-Cyanopyridazin-3-yl)-3,3-dimethylpiperidin-4-yl)amino)-2-(1-ethyl-1H-pyrazol-4-yl)imidazo[1,2-b]pyridazine-7-carboxamide | 0.019 mmol, 9.2 mg, 72.4% yield | C(#N)C1=CC=C(N=N1)N1CC([C@@H](CC1)NC=1C=2N(N=CC1C(=O)N)C=C(N2)C=2C=NN(C2)CC)(C)C | C24H27N11O
